US08754100B2
To the mixture of ethyl 5-amino-2-chlorobenzoate, cyclopropanecarboxaldehyde (458 μl) and acetic acid (1.43 ml) dissolved in methanol (20 ml), α-picoline borane (804 mg) was added at ice cool temperature, and was stirred under nitrogen atmosphere overnight at room temperature. After the reaction mixture was concentrated under reduced pressure, sodium hydrogencarbonate aqueous solution was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography, and ethyl 2-chloro-5-(cyclopropylmethylamino)benzoate (881 mg) and ethyl 5-[bis(cyclopropylmethyl)amino]-2-chlorobenzoate (423 mg) were obtained.

reactant | ethyl 5-amino-2-chlorobenzoate | NC=1C=CC(=C(C(=O)OCC)C1)Cl | C9H10ClNO2
reactant | cyclopropanecarboxaldehyde | 458 μl | C1(CC1)C=O | C4H6O
reactant | acetic acid | 1.43 ml | C(C)(=O)O | C2H4O2
reactant | α-picoline borane | 804 mg | B.N1=C(C=CC=C1)C
solvent | methanol | 20 ml | CO | CH4O
product | ethyl 5-[bis(cyclopropylmethyl)amino]-2-chlorobenzoate | 423 mg | C1(CC1)CN(C=1C=CC(=C(C(=O)OCC)C1)Cl)CC1CC1 | C17H22ClNO2
